Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever and lethargy
 
Major Surgical or Invasive Procedure:
NONE
 
History of Present Illness:
HPI:  ___ y/o F w/ PMH history of CVA, aspiration, 
schizoaffective disorder and hypothyroidism, admitted from 
___ after 7 days of antibiotics levofloxacin 750mg qd 
for UTI with persistent malaise and low grade temperatures of 
unknown levels. At the RN Home, other vital signs were 
reportedly within normal limits. Patient did not want to come to 
hospital last week. No reports of headache nor nausea/vomitting 
or diarrhea but worse appetite. Was eating thickened liquids and 
pureed meals but recent difficult swallowing. Reportedly, she 
had been aspirating thickened fluid and had green sputum.  
Reportly AxOx3 at baseline and she reported increased lethary, 
CXR was done which revealed slight right middle lobe infiltrate 
infiltrate and U/A = cloudy, nitrate neg, ___ 1+, WBC 5, RBC 1, 
epi 10. Thus she was put on levoflox 750mg daily for 7 days but 
energy didn't increase.

-In the ___ ED, VS were 98.3  78   103/62   16   98%   2L but 
spiked to 101.0   She was oriented to self and month w/ 
dsyarthric speech at baseline and unable to ambulate as she is 
wheelchair bound. CXR was done with ED staff concerned for 
consolidation and concern for positive U/A. Started treatment 
with Vanc, CTX and Flagyl IV and gave 2L of NS as well as 
combivent neb given x2 for audible wheezing and 650mg pr tylenol 
given for fever. Blood Cx and Urine Cx sent. 

Labs were remarkable for Lactate 3.1 > 2.2 w/ 1.5 L NS. No 
leukocytosis, normal HCO3, BUN/Cre:  37/1.3, U/A w/ 30 Epi's, 
RBC 6, WBC 11, Nit neg, small ___
Imaging:
-CXR PA/Lat:  lung volumes low, no definite consolidation, trace 
Pleural effusions
-CT HEAD: no acute intracranial process; bilateral old basal 
ganglia infarcts; MR is more sensitive for acute CVA.
EKG: Aflutter  78, NA, No ischemic changes. 

Vitals on transfer were 98.9 (ax), 81, 97/53, 24, 95%2L.

On arrival to the floor, vitals were 98.0  90/60  75  20  95 2L 
and patient reported she's thirsty.
 
Past Medical History:
# CVA: basal ganglia ___, s/p G tube for nutrition
# Hypothyroidism
# Schizoaffective disorder  
# Multiple lacunar infarcts  
# Left Cataract  
# Cervical spinal stenosis
# Demand ischemia 
 
Social History:
___
Family History:
Brother with MI in ___ or ___.
 
Physical Exam:
ADMIT:
VS:  98.0  90/60  75  20  95 2L
General: AO to person, place and time, NAD
HEENT: MMM. no LAD. no JVD. neck supple.
HEART: RRR S1/S2 heard. no murmurs/gallops/rubs.
LUNGS: crackles at right base
ABDOMEN: soft, nontender, nondistended. no guarding or rebound,  
neg HSM. 
Extremities: wwp, no edema. DPs, PTs 2+.  
Neuro/Psych: CNs II-XII intact. strength and sensation in U/L 
extremities grossly intact. gait not assessed.

DISCHARGE:
Vitals: 101.6 Tmax  98.1 Tcurrent   120/50   70   30  94%  2L 
I/O: INC, BM x 5
General: much more alert and interactive. difficult to 
understand.
Lymph: Diffuse lymphadenopathy
HEART: RRR S1/S2 heard. no murmurs/gallops/rubs.
LUNGS: mild crackles at B/L bases, tachypneic
ABDOMEN: soft, nontender, mildly distended, no guarding. no 
rebound. Right inguinal node bx wound: Clean, dry, intact. no 
erythema, edema, or exudate. 
Extremities: wwp
Neuro/Psych: CNs II-XII intact. strength and sensation in U/L 
extremities grossly intact. gait not assessed.
 
Pertinent Results:
___ 01:15PM BLOOD WBC-6.5 RBC-3.87* Hgb-10.4* Hct-36.3 
MCV-94 MCH-26.9* MCHC-28.7* RDW-15.9* Plt ___
___ 07:30AM BLOOD WBC-7.5 RBC-3.96* Hgb-10.6* Hct-37.5 
MCV-95 MCH-26.9* MCHC-28.4* RDW-16.0* Plt ___
___ 01:15PM BLOOD Neuts-79.5* Lymphs-14.2* Monos-5.0 
Eos-1.0 Baso-0.3
___ 07:50AM BLOOD Neuts-82.7* Lymphs-10.3* Monos-5.2 
Eos-1.6 Baso-0.2
___ 01:15PM BLOOD Plt ___
___ 07:50AM BLOOD ___ PTT-26.1 ___
___ 07:30AM BLOOD ___ PTT-26.8 ___
___ 11:30AM BLOOD Glucose-128* UreaN-37* Creat-1.3* Na-144 
K-4.3 Cl-107 HCO3-27 AnGap-14
___ 07:50AM BLOOD Glucose-157* UreaN-32* Creat-1.0 Na-145 
K-4.6 Cl-107 HCO3-33* AnGap-10
___ 07:30AM BLOOD Glucose-123* UreaN-35* Creat-1.0 Na-147* 
K-4.8 Cl-108 HCO3-34* AnGap-10
___ 07:30AM BLOOD ALT-19 AST-43* LD(LDH)-511* AlkPhos-92 
Amylase-30 TotBili-0.3
___ 11:30AM BLOOD cTropnT-<0.01
___ 07:50AM BLOOD CK-MB-1 cTropnT-<0.01
___ 07:30AM BLOOD Calcium-10.2 Phos-2.6* Mg-2.8* 
UricAcd-7.7*
___ 07:50AM BLOOD TotProt-5.3* Albumin-2.7* Globuln-2.6 
Calcium-10.8* Phos-2.1* Mg-2.6
___ 01:00PM BLOOD 25VitD-16*
___ 07:20AM BLOOD PTH-48
___ 07:30AM BLOOD Lithium-1.4
___ 07:50AM BLOOD Lithium-1.3
___ 12:08PM BLOOD Type-ART pO2-58* pCO2-51* pH-7.45 
calTCO2-37* Base XS-9
___ 12:08PM BLOOD Lactate-2.2*
___ 12:05PM BLOOD Lactate-3.1*

CTA CHEST W&W/O C&RECONS, NON-CORONARYStudy Date of ___ 
5:56 ___

IMPRESSION:
1. No evidence for pulmonary embolus.
2. Bilateral axillary, mediastinal, and hilar lymphadenopathy, 
and
splenomegaly, concerning for underlying hematologic process 
including
malignancy.
3. Pulmonary arterial hypertension.
4. Coronary artery calcifications.

LUE U.S:

IMPRESSION:
No evidence of deep vein thrombosis in the left arm.

NON CONTRAST HEAD CT:
IMPRESSION: No evidence of hemorrhage or new infarction. 
Bilateral old basal
ganglia infarcts. MRI is more sensitive in detecting acute 
infarction.

___ ECHOCARDIOGRAPHY REPORT

___       ___ MRN:   ___       TTE (Complete) 
Done ___ at 1:06:05 ___      FINAL

The left atrium is normal in size. Left ventricular wall 
thickness, cavity size, and global systolic function are normal 
(LVEF>55%). Due to suboptimal technical quality, a focal wall 
motion abnormality cannot be fully excluded. Tissue Doppler 
imaging suggests a normal left ventricular filling pressure 
(PCWP<12mmHg). The number of aortic valve leaflets cannot be 
determined. There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 

IMPRESSION: Normal left ventricular cavity size and wall 
thickness with preserved global and regional left ventricular 
systolic function. No clinically significant valvular 
regurgitation or stenosis. Normal pulmonary artery systolic 
pressure. 

Compared with the prior study (images reviewed) of ___, 
the right ventricle was previously dilated and hypertrophied 
with borderline normal systolic function; due to technical 
limitations the right ventricle was not well visualized on the 
current study and could not be compared. 

RIGHT INGUINAL LYMPH NODE
-Biopsy consistent with T-Cell lymphoma
 
Brief Hospital Course:
___ y/o F w/ h/o CVA, aspiration, schizoaffective disorder and 
hypothyroidism p/w 7 days of lethargy and report of fever at ___ 
home placed on 7 days of Levofloxacin for reportedly positive 
U/A w/ ?slight infiltrate on CXR at ___ home transfered to ___ 
for further management in setting of lack of clinical 
improvement now has condition consistent with aggressive T-cell 
lymphoma.

# T-cell lymphoma / Fever and malaise: on arrival objective temp 
of 101.0 reported in ED at ___ w/ hx of low grade temps of 
nursing home. Infectious and thrombotic  source for fevers was 
evaluated with completely negative workup (no UTI, pneumonia, 
diarrhea, wounds). Diffuse Lymphadenopathy found on CT imaging 
which was suspicious for lymphoma and was biopsied in setting of 
high calcium and LDH. The Hematology-Oncology Team at ___ 
relayed to our primary team that the pathology is consistent 
with an aggressive T-cell lymphoma that would unlikely respond 
to chemotherapy. In discussions with the family and health care 
proxy, the decision was made for comfort measures care and for 
hospice to be involved back at the nursing home. Her persistent 
fevers have revealed no infectious source and thus are being 
attributed to her cancer. 

# CVA: basal ganglia ___, s/p G tube for nutrition. Continued 
tube feeds. Continued aspirin and plavix until comfort care in 
stopping unncessary medications. 

# Hypothyroidism: continued levothyroxine initially until 
comfort care when levothyroxine was discontinued.

# Schizoaffective disorder:  continued lithium and olanzapine 
initially until comfort care when olanzapine was discontinued.
    
#Code: Patient is confirmed DNR/DNI ___.
#Contact:  sister-in-law and HCP (Hedda) ___
- Nephew (son of HCP) - Dr. ___: ___

Transitions of care:
-Hospice at nursing home.
 
Medications on Admission:
Plavix 75mg daily GTube
Vitamin D3 400 1 tab daily
colace 100mg BID liquid
olanzapine 2.5mg tab 1 tab qHS
senna 8.6mg tab 2 tabs qhs
Dulcolax 10mg PR prn constipation
lorazapam  0.5mg Gtube BID prn anxiety
Milk of mag Prn constipation
miralaz PRN constipation
tylenol prn pain
ASA 81mg qd PO
levothyroxine 50mcg qd
lithium carb 150mg qd Gtube
lithium carbonate 450 mg Tablet Extended Release PO qHS
 
Discharge Medications:
1. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for anxiety.  
2. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q8H (every 
8 hours) as needed for pain.  
3. senna 8.8 mg/5 mL Syrup Sig: One (1) Tablet PO HS (at 
bedtime).  
4. docusate sodium 50 mg/5 mL Liquid Sig: One (1)  PO BID (2 
times a day): hold for diarrhea.  
5. lithium carbonate 150 mg Capsule Sig: One (1) Capsule PO once 
a day.  
6. lithium carbonate 450 mg Tablet Extended Release Sig: One (1) 
Tablet Extended Release PO at bedtime.  
7. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO BID (2 times a day) as needed for constipation.  
8. polyethylene glycol 3350 17 gram Powder in Packet Sig: One 
(1) Powder in Packet PO DAILY (Daily) as needed for 
constipation.  
9. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
10. ipratropium bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q6H (every 6 hours) as needed for SOB.  
11. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q6H (every 6 hours) as 
needed for SOB.  
12. morphine concentrate 100 mg/5 mL (20 mg/mL) Solution Sig: 
0.1-0.2 mL PO four times a day as needed for pain: Please only 
give if patient expressing pain.  
13. bisacodyl 10 mg Suppository Sig: One (1)  Rectal once a day 
as needed for constipation.  
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
T-cell Lymphoma

Secondary:
Schizoaffective disorder
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
It was a pleasure participating in your care at ___. You were 
admitted to the hospital for fevers and fatigue. It was found 
that that you have developed a cancer of the lymph nodes which 
does not appear to be treatable with medications. In discussion 
with your family and health care proxy, ___ measures were 
started and will be continued at ___.

REGARDING YOUR MEDICATIONS...
Medications STARTED that you should continue:
albuterol, ipratropium, morphine, tylenol as needed.

Medications STOPPED this admission: 
plavix, vitamin D3, olanzapine, aspirin, levothyroxine
 
Followup Instructions:
___